US07919498B2
To a solution of 2-chlorophenylacetone (10.800 g, 64.049 mmol) in 279 mL of CH2Cl2, pyridinium chlorochromate (41.418 g, 192.15 mmol), and pyridine (16 mL) in three portions were added over 2.5 hours and the mixture was refluxed under vigorous stirring. After 22 h, the mixture was removed from heat. The mixture was concentrated in vacuo to give a dark red syrup. The crude mixture was purified by column chromatography on a 120 g of Redi-Sep™ column using 0-10% gradient of EtOAc in hexane over 28 min as eluent to give 1-(2-chlorophenyl)propane-1,2-dione as yellow liquid: 1H NMR (400 MHz, chloroform-d) δ ppm 7.66 (1 H, dd, J=7.6, 1.8 Hz), 7.49-7.54 (1 H, m), 7.38-7.45 (2 H, m), 2.58 (3 H, s); LC-MS: m/z 182.9 [M+H]+.

reactant | 2-chlorophenylacetone | 64.049 mmol, 10.800 g | ClC1=C(C=CC=C1)CC(C)=O | C9H9ClO
reactant | pyridinium chlorochromate | 192.15 mmol, 41.418 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 279 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-chlorophenyl)propane-1,2-dione | ClC1=C(C=CC=C1)C(C(C)=O)=O | C9H7ClO2
